US04985427
Dihydro-4-methyl-1-(3-propylphenyl)-1,2,4-triazine-3,5-(2H,4H)-dione
Methyl [2-[(methylamino)carbonyl]-1-(3-propylphenyl)hydrazino]acetate (0.5 g) was dissolved in methanol (20 ml) under nitrogen at room temperature. Solid sodium methoxide (0.24 g) was added to the solution which was then stirred at room temperature for 1 h. The reaction mixture was poured into pH 6.5 phosphate buffer solution (10 ml) and extracted with ethyl acetate (3×30 ml). The combined, dried organic phases were concentrated in vacuo and the residual oil was purified by FCC eluting with chloroform:ether (95:5) to give a solid (152 mg) which was triturated with ether to give the title compound (90 mg), m.p. 112°-115°.

reactant | Methyl [2-[(methylamino)carbonyl]-1-(3-propylphenyl)hydrazino]acetate | 0.5 g | CNC(=O)NN(C1=CC(=CC=C1)CCC)CC(=O)OC | C14H21N3O3
reactant | sodium methoxide | 0.24 g | C[O-].[Na+]
reactant | phosphate | 10 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | methanol | 20 ml | CO | CH4O
product | Dihydro-4-methyl-1-(3-propylphenyl)-1,2,4-triazine-3,5-(2H,4H)-dione | 152 mg | CN1C(NN(CC1=O)C1=CC(=CC=C1)CCC)=O | C13H17N3O2
